US08389735B2
(i) Synthesis of 9-(4-bromophenyl)carbazole
First, 56 g (240 mmol) of p-dibromobenzene, 31 g (180 mmol) of carbazole, 4.6 g (24 mmol) of copper iodide, 66 g (480 mmol) of potassium carbonate, and 2.1 g (8 mmol) of 18-crown-6-ether were put in a 300-mL three-neck flask, and nitrogen was substituted for air in the flask. Then, 8 mL of N,N-dimethylpropyleneurea (abbreviation: DMPU) was added therein, and the mixture was stirred at 180° C. for 6 hours. After the reaction mixture was cooled to room temperature, a precipitate was removed by suction filtration. The filtrate was washed with dilute hydrochloric acid, a saturated sodium hydrogen-carbonate aqueous solution, and a saturated saline solution in this order and dried with magnesium sulfate. After being dried, the solution was filtered naturally and concentrated, and an obtained oily substance was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) and recrystallized with chloroform and hexane; thus, 21 g of a light brown plate-shaped crystal of 9-(4-bromophenyl)carbazole that was an object was obtained (yield: 35%).

reactant | p-dibromobenzene | 240 mmol, 56 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | carbazole | 180 mmol, 31 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | potassium carbonate | 480 mmol, 66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6-ether | 8 mmol, 2.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | N,N-dimethylpropyleneurea | 8 mL | CC1CN1C(=O)N(C)C | C6H12N2O
catalyst | copper iodide | 24 mmol, 4.6 g | [Cu](I)I
product | 9-(4-bromophenyl)carbazole | yield: 35% | BrC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H12BrN
